US08377923B2
3-chloro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}phenol monohydrochloride (40 mg) was suspended in DMF (2 ml), potassium carbonate (64 mg) and 2-bromoacetamide (26 mg) were added thereto, followed by stirring at 60° C. for 30 minutes. The reaction solution was cooled to room temperature, water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine in this order and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=100:1 to 100:5). The resulting residue was dissolved in ethyl acetate, 4M hydrogen chloride-ethyl acetate (1 ml) was added thereto and the solvent was evaporated under reduced pressure. The residue was washed with ethyl acetate to obtain 2-(3-chloro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}phenoxy}acetamide monohydrochloride (17 mg), as a white solid.

reactant | 3-chloro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}phenol monohydrochloride | 40 mg | Cl.ClC=1C=C(C=CC1C1=NN=C(N1C)C(C)(OC1=C(C=C(C=C1F)F)F)C)O
reactant | potassium carbonate | 64 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoacetamide | 26 mg | BrCC(=O)N | C2H4BrNO
reactant | water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-(3-chloro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}phenoxy}acetamide monohydrochloride | 17 mg | Cl.ClC=1C=C(OCC(=O)N)C=CC1C1=NN=C(N1C)C(C)(OC1=C(C=C(C=C1F)F)F)C | InChI=1S/C20H18ClF3N4O3.ClH/c1-20(2,31-17-14(23)6-10(22)7-15(17)24)19-27-26-18(28(19)3)12-5-4-11(8-13(12)21)30-9-16(25)29;/h4-8H,9H2,1-3H3,(H2,25,29);1H
